; ================================================================
; fetbias_sw_gate_research.net
; Gate bias subcell for GaAs pHEMT RF switch.
; Generated by fet_bias_preprocessor.py
;
; Topology:
;      VGATE (V_DC)
;        |
;        + (positive)
;        |
;   VCTRL --[RS]-- GATE
;     |
;    [CP]
;     |
;    GND
;
; Design variables (all parametric, overridable per instance):
;   Vgate = gate control voltage (default: 0V for on-state, -1.5V for off-state)
;   Rs = bias resistor (default: 1000 Ohm for series FET)
;   Cp = bypass capacitor (default: 2272.73 fF for both)
;
; Default values (series FET, UGW=160.0um):
;   Vgate = 0.0 V (on-state)
;   Rs = 1000.0 Ohm
;   Cp = 2272.73 fF
;
; Shunt FET override values (UGW=100.0um):
;   Vgate = -1.5 V (off-state)
;   Rs = 1040.2 Ohm
;   Cp = 2272.73 fF
; ================================================================

.SUBCKT FETBIAS_SW_GATE VCTRL GATE 0

; -- Design variables ────────────────────────────────────────
; All parametric — set defaults, override per instance in parent
.VAR Vgate 0.0 V
.VAR Rs 1000.0 Ohm
.VAR Cp 2272.73 fF

; -- Ports -------------------------------------------------------
PORT:VCTRL  VCTRL
PORT:GATE   GATE

; -- Gate control voltage source ────────────────────────────
; V_DC source: positive terminal at VCTRL, negative at ground
; Voltage value set by Vgate design variable
V:VGATE  VCTRL  0  Vdc=Vgate

; -- Gate bias network -------------------------------------------
; Rs and Cp reference ADS design variables set on this cell.
; Default values = series FET sizing; override per instance for shunt.
R:RS   VCTRL   GATE   R=Rs
C:CP   VCTRL   0      C=Cp

.ENDS FETBIAS_SW_GATE
